* NGSPICE file created from CMP7345.ext - technology: ihp-sg13g2

.subckt CMP7345 vdd vout1 vout2 v- v+ clk vss 
X0 Vout1 clk VDD VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.13u
X1 diff_pair_0.Id2 V- diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X2 Vout2 Vout1 diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X3 diff_pair_0.tail V- diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X4 diff_pair_0.Id1 clk VDD VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.13u
X5 diff_pair_0.Id2 clk VDD VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.13u
X6 diff_pair_0.Id2 VSS VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X7 diff_pair_0.Id2 Vout1 Vout2 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X8 Vout2 Vout1 cc_pair_pmos_0.Is2 VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X9 Vout1 Vout2 VDD VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X10 diff_pair_0.tail V+ diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X11 diff_pair_0.Id2 V- diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X13 diff_pair_0.Id2 VSS VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X14 diff_pair_0.Id1 Vout2 Vout1 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X15 diff_pair_0.Id2 VSS VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X16 diff_pair_0.Id1 V+ diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X17 diff_pair_0.tail V+ diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X18 Vout1 Vout2 diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X19 diff_pair_0.tail clk VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.13u
X20 VDD clk Vout2 VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.13u
X21 VDD clk Vout1 VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.13u
X22 cc_pair_pmos_0.Is2 Vout1 Vout2 VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X23 VDD Vout2 Vout1 VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X24 diff_pair_0.tail V+ diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X26 VDD clk diff_pair_0.Id1 VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.13u
X27 VDD clk diff_pair_0.Id2 VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.13u
X28 diff_pair_0.Id1 V+ diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X29 diff_pair_0.Id1 V+ diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X30 VSS VSS diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X31 Vout2 Vout1 diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X32 diff_pair_0.Id2 Vout1 Vout2 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X33 VSS VSS diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X34 diff_pair_0.Id1 VSS VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X35 Vout1 Vout2 VDD VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X36 diff_pair_0.Id2 Vout1 Vout2 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X37 diff_pair_0.tail V- diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X38 VSS clk diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.13u
X39 diff_pair_0.Id2 VSS VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X40 Vout2 Vout1 diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X41 diff_pair_0.tail clk VSS VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.13u
X42 VDD clk Vout2 VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.13u
X43 VDD clk Vout1 VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.13u
X44 VDD VDD VDD VDD sg13_lv_pmos ad=0.34p pd=2.68u as=93.81305p ps=0.25846m w=1u l=0.26u
X45 diff_pair_0.Id2 Vout1 Vout2 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X46 VSS VSS diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X47 diff_pair_0.Id2 V- diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X48 Vout1 Vout2 diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X49 VSS VSS diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X50 Vout2 Vout1 cc_pair_pmos_0.Is2 VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X51 Vout2 Vout1 diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X52 diff_pair_0.Id1 Vout2 Vout1 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X53 diff_pair_0.tail V+ diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X54 diff_pair_0.Id1 VSS VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X55 cc_pair_pmos_0.Is2 Vout1 Vout2 VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X56 diff_pair_0.tail clk VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.13u
X57 VSS clk diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.13u
X58 Vout2 clk VDD VDD sg13_lv_pmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.13u
X59 VSS VSS diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X60 VSS VSS diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X61 VDD Vout2 Vout1 VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X62 diff_pair_0.Id1 V+ diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X63 Vout1 Vout2 diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X64 diff_pair_0.Id1 Vout2 Vout1 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X65 VDD clk diff_pair_0.Id1 VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.13u
X66 VDD clk diff_pair_0.Id2 VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.13u
X67 diff_pair_0.Id1 VSS VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X68 VDD VDD VDD VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0 ps=0 w=1u l=0.26u
X69 diff_pair_0.Id1 Vout2 Vout1 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X70 diff_pair_0.tail V- diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X71 diff_pair_0.Id1 VSS VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X72 Vout1 Vout2 diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.26u
X73 VSS VDD dantenna l=13.44u w=8.44u
X74 diff_pair_0.tail V- diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X75 VSS clk diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.13u
X76 diff_pair_0.Id2 V- diff_pair_0.tail VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.26u
X77 VSS VSS diff_pair_0.Id1 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
X78 VSS VSS diff_pair_0.Id2 VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.26u
C0 VDD Vout2 2.61492f
C1 VDD Vout1 2.93981f
C2 V+ V- 3.22345f
C3 diff_pair_0.Id1 V- 2.31972f
C4 diff_pair_0.Id1 Vout1 2.98943f
C5 Vout1 Vout2 3.5177f
C6 diff_pair_0.Id2 diff_pair_0.Id1 2.61706f
C7 diff_pair_0.Id2 Vout2 2.85929f
C8 V- VSS 2.42478f
C9 V+ VSS 3.74055f
C10 Vout1 VSS 2.32825f
C11 VDD VSS 19.4106f
.ends
